US04780477
To a solution of 1.00 g of 1-(2-diisopropylaminoethyl)-5-methylisatin and 0.34 g of 4-methylsemicarbazide in 15 ml of a mixture of ethanol and water (2:1) was added 3.8 ml of a 1N-hydrochloric acid. The mixture was stirred for 16 hours at room temperature. To the reaction mixture was added an aqueous sodium bicarbonate solution, and the mixture was extracted with chloroform. The chloroform layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethanol to obtain 0.77 g of (E)-1-(2-diisopropylaminoethyl)-5-methylisatin 3-(4-methylsemicarbazone) having a melting point of 157.5°-158.5° C.

reactant | 1-(2-diisopropylaminoethyl)-5-methylisatin | 1.00 g | C(C)(C)N(CCN1C(=O)C(=O)C2=CC(=CC=C12)C)C(C)C | C17H24N2O2
reactant | 4-methylsemicarbazide | 0.34 g | CNC(NN)=O | C2H7N3O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | (E)-1-(2-diisopropylaminoethyl)-5-methylisatin 3-(4-methylsemicarbazone) | 0.77 g | CNC(N\N=C/1\C(N(C2=CC=C(C=C12)C)CCN(C(C)C)C(C)C)=O)=O | C19H29N5O2
